US08252935B2
a) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (35 mg, 0.08 mmol) in toluene (1.0 ml), 1-Iodo-4-trifluoromethyl-benzene (11.4 μl, 0.08 mmol), racemic-2-Ditbutylphosphino-1-1′binapthyl (14 mg, 0.035 mmol), and sodium t-butoxide ((10.0 mg, 0.01 mmol) were added and the reaction was bubbled with nitrogen for 20 minutes. The reaction was degassed with nitrogen and Pd (II) OAc) 8.0 mg, 0.01 mmol) was added. The reaction was microwaved at 120° C. for 30 minutes. The reaction was concentrated in vacuo, and purified by silica gel chromatography to give the product as a yellow oil (17 mg, 22%). Calcd for C33H35F6NO2 (M+H) 591.63, Found 592.3

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.08 mmol, 35 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 1-Iodo-4-trifluoromethyl-benzene | 0.08 mmol, 11.4 μl | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 17 mg, 22% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C33H35F6NO2
